US05371064
A mixture of t-butyl 2-cyclopropylcarbonyl-3-(2-methylsulphonyl-3-phenylsulphenylphenyl)-3-oxopropionoate (8.5 g) and para-toluene sulphonic acid (0.25 g) in toluene was heated at reflux for six hours. Water and ethyl acetate were then added and the organic phase was dried over anhydrous sodium sulphate, filtered and evaporated. The residue was crystallised from ether to give 1-cyclopropyl-3-(2-methylsulphonyl-3-phenylsulphenylphenyl)propan-1,3-dione (6.2 g) as a beige powder,

reactant | t-butyl 2-cyclopropylcarbonyl-3-(2-methylsulphonyl-3-phenylsulphenylphenyl)-3-oxopropionoate | 8.5 g | C1(CC1)C(=O)C(C(=O)OC(C)(C)C)C(=O)C1=C(C(=CC=C1)SC1=CC=CC=C1)S(=O)(=O)C | C24H26O6S2
reactant | para-toluene sulphonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopropyl-3-(2-methylsulphonyl-3-phenylsulphenylphenyl)propan-1,3-dione | 6.2 g | C1(CC1)C(CC(=O)C1=C(C(=CC=C1)SC1=CC=CC=C1)S(=O)(=O)C)=O | C19H18O4S2
